US04185114
N-(2-Amino-5-bromo-benzyl)-methionine
2.54 gm (0.01 mol) of N-(2-amino-benzyl)-methionine and 100 gm of aluminum chloride were dissolved in 50 cc of anhydrous acetic acid while gently heating. Then, the mixture was brought to room temperature and, while stirring, 0.52 cc (0.01 mol) of bromine diluted in 20 cc of acetic acid was added slowly. A light-colored precipitate was formed. After the addition of bromine was finished, the precipitate was centrifuged off, washed with ample acetic acid and then with anhydrous ether, and dried in a dryer. Then, the product was dissolved in 40 cc of water, and the pH of the solution was adjusted to 6 by addition of dilute ammonia while cooling it on an ice water bath. The mixture was allowed to stand for 24 hours, whereupon the new precipitate was centrifuged off, washed with water and dried in drying chamber. (Solvent of the crystallizate: alcohol at 50° C.). The melting point of the product was 207° C., and the yield was 45% of theory.

reactant | N-(2-amino-benzyl)-methionine | 0.01 mol, 2.54 gm | NC1=C(CN[C@@H](CCSC)C(=O)O)C=CC=C1 | C12H18N2O2S
reactant | aluminum chloride | 100 gm | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromine | 0.01 mol, 0.52 cc | BrBr | Br2
solvent | acetic acid | 50 cc | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 cc | C(C)(=O)O | C2H4O2
product | N-(2-Amino-5-bromo-benzyl)-methionine | yield was 45% | NC1=C(CN[C@@H](CCSC)C(=O)O)C=C(C=C1)Br | C12H17BrN2O2S
